US09290459B1
3-(Benzyloxy)cyclopent-2-enone
A mixture of cyclopentane-1,3-dione (2.00 g, 20.4 mmol), benzyl alcohol (2.11 mL, 20.4 mmoL) and para-toluenesulfonic acid (35 mg, 0.20 mmol) in toluene (10.0 mL) is heated at reflux over night. Water is added, and the mixture is extracted with dichloromethane. The organic layer is concentrated, and the residue is purified by flash chromatography on silica (gradient cyclohexane/ethyl acetate 9:1 to cyclohexane/ethyl acetate 1:4). Yield: 1.66 g; ESI mass spectrum: [M+H]+=189; Retention time HPLC: 0.51 min (X012_S01).

reactant | cyclopentane-1,3-dione | 20.4 mmol, 2.00 g | C1(CC(CC1)=O)=O | C5H6O2
reactant | benzyl alcohol | 2.11 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | para-toluenesulfonic acid | 0.20 mmol, 35 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Water | O | H2O
solvent | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Benzyloxy)cyclopent-2-enone | C(C1=CC=CC=C1)OC1=CC(CC1)=O | C12H12O2
